US05225517
232.7 g of 1,6-naphthalene diol, 409.5 g of 4-fluoronitrobenzene and 402.1 g potassium carbonate were combined with 1 1. of dimethylacetamide (DMAc) and heated to reflux for 1 hour to form 1,6-bis-(4-nitrophenoxy) naphthalene. The mixture was concentrated by distilling off 500 ml of DMAc. The mixture was cooled to room temperature and the product precipitated by pouring into 1 1. of water. A light tan solid was collected and washed with three 500 ml portions of methanol to facilitate drying.

reactant | 1,6-naphthalene diol | 232.7 g | C1(=CC=CC2=CC(=CC=C12)O)O | C10H8O2
reactant | 4-fluoronitrobenzene | 409.5 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 402.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 1,6-bis-(4-nitrophenoxy) naphthalene | [N+](=O)([O-])C1=CC=C(OC2=CC=CC3=CC(=CC=C23)OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C22H14N2O6
